### PR TITLE
[Merged by Bors] - feat(CategoryTheory): presentable objects are compatible with equivalences of categories

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/Basic.lean [hunk 1]
```diff
@@ -109,6 +112,50 @@ lemma isCardinalPresentable_of_iso [IsCardinalPresentable X κ] : IsCardinalPres
...
+  · intro
+    exact isCardinalPresentable_of_iso
+      (show F.inv.obj (F.obj X) ≅ X from F.asEquivalence.unitIso.symm.app X :) κ
+  · intro
+    infer_instance
+
+lemma isCardinalPresentable_shrinkHoms_iff [LocallySmall.{w} C] :
+    IsCardinalPresentable ((ShrinkHoms.functor.{w} C).obj X) κ ↔ IsCardinalPresentable X κ :=
+  isCardinalPresentable_iff_of_isEquivalence X κ _
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Presentable/Basic.lean:154]:
```suggestion
```

**Review by TwoFX — APPROVED** [review]
Thanks!
bors r+
